US06891038B2
Preparation of 1,3,3-Trimethyl-5-Trifluoromethoxy-Spiro-(Indoline-2,3′-(3H)-Naphtho[2,1-b]-(1,4)-Oxazine)
A solution of 1-nitroso-2-naphthol (0.50 g, 2.89 mmol) and 1,3,3-trimethyl-5-trifluoromethoxy-2-methylene-indoline (0.71 g, 2.77 mmol) in ethanol (30 ml) was heated under nitrogen and refluxed for 20 hrs. The solvent was then evaporated and the residue was chromatographed over silica (ethyl acetate/petroleum ether 1:10). After crystallization in ethanol, the yield of the pure product (colorless crystals) was 0.2 g (18%).

reactant | 1-nitroso-2-naphthol | 2.89 mmol, 0.50 g | N(=O)C1=C(C=CC2=CC=CC=C12)O | C10H7NO2
reactant | 1,3,3-trimethyl-5-trifluoromethoxy-2-methylene-indoline | 2.77 mmol, 0.71 g | CN1C(C(C2=CC(=CC=C12)OC(F)(F)F)(C)C)=C | C13H14F3NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,3,3-Trimethyl-5-Trifluoromethoxy-Spiro-(Indoline-2,3′-(3H)-Naphtho[2,1-b]-(1,4)-Oxazine) | CN1C2=CC=C(C=C2C(C12C=NC1=C(O2)C=CC2=CC=CC=C21)(C)C)OC(F)(F)F | C23H19F3N2O2
